US07247625B2
E. 6-[(4-bromophenyl)amino]-4-(4-chlorophenyl)-1,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4-(4-chlorophenyl)-1,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 4-bromophenyl boronic acid according to the coupling procedure described in example 1. MS (ESI) m/z [M+H]+ (457/459/461); MS (ESI) m/z [M−H]−(455/457/459); Anal. calcd for C22H18BrClN2O2: C, 57.73; H,3.96; N6.12. Found: C, 56.88; H, 3.90; N, 5.70.

reactant | 6-amino-4-(4-chlorophenyl)-1,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(C)C2=CC=C(C=C2)Cl)C1 | C16H15ClN2O2
reactant | 4-bromophenyl boronic acid | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
product | 6-[(4-bromophenyl)amino]-4-(4-chlorophenyl)-1,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | BrC1=CC=C(C=C1)NC=1C=CC2=C(C(OC(N2C)=O)(C)C2=CC=C(C=C2)Cl)C1 | C22H18BrClN2O2
